US05523456
Step F: N-{2(S)-[4-(4-nitrophenyl)butanoylamino]-3(S)-methylpentyl}-N-(1-naphthylmethyl)-glycyl-methionine methyl ester
4-(4-Nitrophenyl)butyric acid (73 mg, 350 μmol), dissolved in DMF (5 ml) was treated with HOBT (60 mg, 350 μmol), EDC (76 mg, 350 μmol) and N-[2(S)-amino-3-methylpentyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride (160 mg, 300 μmol). The pH was adjusted to ~7.5 with Et3N (170 μl, 385 μmol) and the mixture was stirred at ambient temperature for 16 h. The mixture was concentrated and the residue was partitioned between EtOAc (100 ml) and H2O (100 ml). The organic layer was washed with H2O (2×50 ml), dried (MgSO4), filtered and concentrated to give a crude product which was purified by chromatography (silica gel, eluting with 1:1 to 1:2 hexane: EtOAc) to give the title compound.

reactant | 4-(4-Nitrophenyl)butyric acid | 350 μmol, 73 mg | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)O | C10H11NO4
reactant | HOBT | 350 μmol, 60 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 350 μmol, 76 mg
reactant | N-[2(S)-amino-3-methylpentyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride | 300 μmol, 160 mg | Cl.COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H](C(CC)C)N)=O)CCSC)=O
reactant | Et3N | 385 μmol, 170 μl | CCN(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-{2(S)-[4-(4-nitrophenyl)butanoylamino]-3(S)-methylpentyl}-N-(1-naphthylmethyl)-glycyl-methionine methyl ester | COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]([C@H](CC)C)NC(CCCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)CCSC)=O | C35H46N4O6S
